* C:\Users\Bruno\Documents\UTN\tc2-r4001\trabajo_laboratorio_1\sim.asc
XU1 N004 N006 N001 opamp Aol=100K GBW=10G
XU2 N002 0 Vo opamp Aol=100K GBW=10G
XU3 N003 0 N005 opamp Aol=100K GBW=10G
C1 Vo N002 1n
C2 N005 N003 1n
R4 Vo N006 50k
R2 N001 N004 50k
R_F1 N002 N001 10k
R_F2 N003 Vo 70.2k
R1 N005 N004 50k
R3 vi N006 50k
V1 vi 0 SINE(0 1 6k) AC 1
R_Q N006 0 4170
.inc opamp.sub
.tran 0 1m 0
* UAF42
.meas AC gain_f0 FIND V(vo)/V(vi) AT 6k
.meas AC gain_fp1 FIND V(vo)/V(vi) AT 5082
.meas AC gain_fp2 FIND V(vo)/V(vi) AT 7082
.meas AC gain_fs1 FIND V(vo)/V(vi) AT 600
.meas AC gain_fs2 FIND V(vo)/V(vi) AT 60k
.backanno
.end
