* C:\Users\Bruno\Documents\UTN\tc2-r4001\trabajo_semanal_2\sim_bp\sim_bp.asc
XU1 N001 0 vo opamp Aol=100K GBW=10G
XU2 N005 0 N002 opamp Aol=100K GBW=10G
XU3 N004 0 N003 opamp Aol=100K GBW=10G
R1 N005 vo {R3}
C1 vo N001 {C}
R2 vo N001 {R2}
R3 N001 vi {R1}
C2 N003 N005 {C}
R4 N004 N003 {R4}
R5 N002 N004 {R4}
V1 vi 0 AC 1
R6 N002 N001 {R3}
.param omega_z 1k
.param K 1
.param Q 1/sqrt(2)
.param omega_0 2*pi*10k
.param C 1/omega_0/omega_z
.ac dec 1000 1k 100k
.inc opamp.sub
.param R1 omega_z*Q/K
.param R2 omega_z*Q
.param R3 omega_z
.param R4 omega_z
.backanno
.end
