* C:\Users\Bruno\Documents\UTN\tc2-r4001\trabajo_semanal_2\sim_lp\sim_lp.asc
XU1 N001 0 N005 opamp Aol=100K GBW=10G
XU2 N006 0 N002 opamp Aol=100K GBW=10G
XU3 N004 0 N003 opamp Aol=100K GBW=10G
R1 N006 N005 {omega_z}
C1 N005 N001 {C}
R2 N005 N001 {Q*omega_z}
R3 N001 N007 {-omega_z/K}
C2 N003 N006 {C}
R4 N004 N003 {omega_z}
R5 N002 N004 {omega_z}
V1 N007 0 AC 1
R6 N002 N001 {omega_z}
.param omega_z 1k
.param K -1
.param Q 1/sqrt(2)
.param omega_0 2*pi*10k
.param C 1/omega_0/omega_z
.ac dec 1000 100 100k
.inc opamp.sub
.backanno
.end
