* Z:\home\bruno\brucloud\cifede\sipm\simulation\spice\Draft1.asc
XU1 N001 0 vo1 opamp Aol=100K GBW=10G
XU2 N013 0 N002 opamp Aol=100K GBW=10G
R1 N013 vo1 {r1}
C1 vo1 N001 {c1}
R2 vo1 N001 {rq1}
R3 N001 vi {rk1}
XU3 N008 0 N007 opamp Aol=100K GBW=10G
R4 N002 N008 {r1}
R5 N008 N007 {r1}
C2 N007 N013 {c1}
R6 N002 N001 {r1}
V1 vi 0 AC 1
XU4 N003 0 vo2 opamp Aol=100K GBW=10G
XU5 N014 0 N004 opamp Aol=100K GBW=10G
R7 N014 vo2 {r2}
C3 vo2 N003 {c2}
R8 vo2 N003 {rq2}
R9 N003 vo1 {rk2}
XU6 N010 0 N009 opamp Aol=100K GBW=10G
R10 N004 N010 {r2}
R11 N010 N009 {r2}
C4 N009 N014 {c2}
R12 N004 N003 {r2}
XU7 N016 0 vo3 opamp Aol=100K GBW=10G
XU8 N024 0 N017 opamp Aol=100K GBW=10G
R13 N024 vo3 {r3}
C5 vo3 N016 {c3}
R14 vo3 N016 {rq3}
R15 N016 vo2 {rk3}
XU9 N021 0 N020 opamp Aol=100K GBW=10G
R16 N017 N021 {r3}
R17 N021 N020 {r3}
C6 N020 N024 {c3}
R18 N017 N016 {r3}
XU10 N018 0 vo4 opamp Aol=100K GBW=10G
XU11 N025 0 N019 opamp Aol=100K GBW=10G
R19 N025 vo4 {r4}
C7 vo4 N018 {c4}
R20 vo4 N018 {rq4}
R21 N018 vo3 {rk4}
XU12 N023 0 N022 opamp Aol=100K GBW=10G
R22 N019 N023 {r4}
R23 N023 N022 {r4}
C8 N022 N025 {c4}
R24 N019 N018 {r4}
XU13 N005 0 vo5 opamp Aol=100K GBW=10G
XU14 N015 0 N006 opamp Aol=100K GBW=10G
R25 N015 vo5 {r5}
C9 vo5 N005 {c5}
R26 vo5 N005 {rq5}
R27 N005 vo4 {rk5}
XU15 N012 0 N011 opamp Aol=100K GBW=10G
R28 N006 N012 {r5}
R29 N012 N011 {r5}
C10 N011 N015 {c5}
R30 N006 N005 {r5}
.param w0 2000000 * 2*pi
.param z_n 1000
.ac dec 1k 100k 10Meg
.include opamp.sub
.meas AC T_ripple PP V(vo5)/V(vi) FROM 1600k TO 2500k
.meas AC T_fp1 FIND V(vo5)/V(vi) AT 1250k
.meas AC T_fp2 FIND V(vo5)/V(vi) AT 3200k
.param r1=1000 rq1=2222.222222223029 rk1=688.1650934936923 c1=7.957747154594492e-11
.param r2=1000 rq2=2771.5362358210728 rk2=2850.5019370039895 c2=9.099339944530032e-11
.param r3=1000 rq3=2771.5362358218977 rk3=1708.445688435001 c3=6.959377291374852e-11
.param r4=1000 rq4=7354.813433977212 rk4=3163.8848493796313 c4=6.431921785145782e-11
.param r5=1000 rq5=7354.813433979512 rk5=1616.2241992854365 c5=9.84553946577985e-11
.meas AC T_max MAX V(vo5)/V(vi) FROM 1600k TO 2500k
.backanno
.end
